US03965143
A mixture consisting of 5 parts of 1-octyn-4(RS)-ol, 6.6 parts of tertiary-butyldimethylsilyl chloride, 6.8 parts of imidazole and 10 parts by volume of dimethylformamide is stirred at room temperature for about 16 hours, then is poured into ether. The resulting organic solution is washed several times with water, then dried over anhydrous sodium sulfate and stripped of solvent under reduced pressure to afford 1-octyn-4(RS)-ol tertiary-butyldimethylsilyl ether, which exhibits a nuclear magnetic resonance maximum at δ0.9.

reactant | 1-octyn-4(RS)-ol | C#CCC(CCCC)O | C8H14O
reactant | tertiary-butyldimethylsilyl chloride | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 1-octyn-4(RS)-ol tertiary-butyldimethylsilyl ether | C(C)(C)(C)[Si](C)(C)OC(CC#C)CCCC | C14H28OSi
